US06818772B2
(1S,2R,4S,5R)-N-(7-chloroquinolin-4-yl)-N′-(3,5-dimethylphenyl)-2,5-dimethylcyclohexane-1,4-diamine
The titled compound was prepared according to the methods described in Example 140, substituting 5-bromo-m-xylene for 1-bromo-3,5-difluorobenzene and (1S,2R,4S,5R)-N-(7-chloroquinolin-4-yl)-2,5-dimethylcyclohexane-1,4-diamine for N-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine. 1H NMR (300 MHz, DMSO) δ ppm 8.89 (d, 1 H), 8.56 (m, 2 H), 7.92 (d, 1 H), 7.82 (dd, 1 H), 6.99 (d, 1 H), 6.31 (s, 2 H), 6.17 (s, 1 H), 4.10 (br.s, 2 H), 2.14 (s, 6 H), 2.03-2.33 (m, 4 H), 1.69 (m, 2 H), 0.97 (br.d, 6 H). MS(ESI(+)Q1MS m/z 408 (M+H)+).

reactant | 1-bromo-3,5-difluorobenzene | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | (1S,2R,4S,5R)-N-(7-chloroquinolin-4-yl)-2,5-dimethylcyclohexane-1,4-diamine | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1[C@@H](C[C@@H]([C@@H](C1)C)N)C | C17H22ClN3
reactant | N-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)N | C15H18ClN3
product | (1S,2R,4S,5R)-N-(7-chloroquinolin-4-yl)-N′-(3,5-dimethylphenyl)-2,5-dimethylcyclohexane-1,4-diamine | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1[C@@H](C[C@@H]([C@@H](C1)C)NC1=CC(=CC(=C1)C)C)C | C25H30ClN3
